US07781454B2
Step 1: 4-(3-bromo-5-chlorophenoxy)-5-chloro-1H-benzimidazole
A solution of 3-(3-bromo-5-chlorophenoxy)-4-chlorobenzene-1,2-diamine (400 mg, 1.149 mmol) in 90% formic acid (5 mL) was heated to 100° C. for 1 hour. This mixture was concentrated in vacuo and then partitioned between ethyl acetate (40 mL) and sat. aq. NaHCO3 (40 mL). The organic extract was dried over MgSO4, filtered and concentrated in vacuo to give the desired compound. LRMS (M+1)=358.7.

reactant | 3-(3-bromo-5-chlorophenoxy)-4-chlorobenzene-1,2-diamine | 1.149 mmol, 400 mg | BrC=1C=C(OC2=C(C(=CC=C2Cl)N)N)C=C(C1)Cl | C12H9BrCl2N2O
reactant | formic acid | 5 mL | C(=O)O | CH2O2
product | 4-(3-bromo-5-chlorophenoxy)-5-chloro-1H-benzimidazole | BrC=1C=C(OC2=C(C=CC=3NC=NC32)Cl)C=C(C1)Cl | C13H7BrCl2N2O
